US04474754
11(a). Preparation of Z-Thr-Asn-Leu-Gln-NHNH2
0.91 Gram of Z-Thr-Asn-Leu-Gln-NHNHBoc was dissolved in 8 ml of TFA, and was allowed to stand at a room temperature for 15 minutes. 80 Milliliters of anhydrous ether was added to this solution and the precipitate formed was collected quickly by filtration, washed with anhydrous ether, then was dried under a reduced pressure in a desiccator containing potassium hydroxide-phosphorus pentoxide as the desiccant, to obtain the desired product.

reactant | Z-Thr-Asn-Leu-Gln-NHNHBoc | N([C@@H]([C@H](O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)NNC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C32H50N8O11
reactant | ether | CCOCC | C4H10O
solvent | TFA | 8 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | Z-Thr-Asn-Leu-Gln-NHNH2 | N([C@@H]([C@H](O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C27H42N8O9
